US07148234B2
STEP 1. 2-[4-(2,4-Dinitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 3 of Example 1 from 2-chloro-1,5-dinitrobenzene and 4-aminophenylethyl alcohol.

reactant | 2-chloro-1,5-dinitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-(2,4-Dinitroanilino)phenyl]ethanol | [N+](=O)([O-])C1=C(NC2=CC=C(C=C2)CCO)C=CC(=C1)[N+](=O)[O-] | C14H13N3O5
